US04245120
5-Amino-1,2,3-benzenetricarboxylic acid Triphenyl Ester
A solution of 29.0 g. of 5-nitro-1,2,3-benzenetricarboxylic acid triphenyl ester in dimethylformamide is hydrogenated on a Parr shaker in the presence of 10% palladium-on-carbon catalyst. The mixture is filtered through diatomaceous earth and the filtrate is diluted with water and extracted with methylene chloride. The extract is dried over anhydrous sodium sulfate and evaporated to give an oil. The oil is crystallized from ether, and the solid is recrystallized from benzene and twice from ethanol to provide 15.0 g of the product of the Example.

reactant | 5-nitro-1,2,3-benzenetricarboxylic acid triphenyl ester | C1(=CC=CC=C1)OC(=O)C1=C(C(=CC(=C1)[N+](=O)[O-])C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C27H17NO8
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium-on-carbon | [Pd] | Pd
product | 5-Amino-1,2,3-benzenetricarboxylic acid Triphenyl Ester | 15.0 g | C1(=CC=CC=C1)OC(=O)C1=C(C(=CC(=C1)N)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C27H19NO6
